US08026234B2
N-(Dibenzylaminomethyl)benzotriazole:
1H-Benzotriazole-1-methanol (51.0 g, 0.342 mol) was weighed into a round bottom flask and solubilized in EtOH (800 mL). Dibenzylamine (67.5 g, 0.342 mol) was added slowly (over 5 min) to the rapidly stirred solution. Formation of a white precipitate was observed shortly after starting addition. The solution was abandoned to stir for 24 h. At this time the reaction is judged complete by NMR (product fragments on LCMS to show only benzotriazole). The majority of the solvent was removed by rotovap and diethyl ether (1 L) was added to the residue with vigorous stirring. This mixture was filtered, the filtrand washed with ether and dried under vacuum to yield the desired product as a fluffy white solid (112 g, quat. yield). 1H NMR (400 MHz, chloroform-d) δ ppm 3.80 (s, 4H) 5.48 (s, 2H) 7.21 (d, J=8.34 Hz, 1H) 7.34-7.43 (m, 11H) 7.49 (d, 1H) 8.09 (d, J=7.83 Hz, 1H).

reactant | 1H-Benzotriazole-1-methanol | 0.342 mol, 51.0 g | N1(N=NC2=C1C=CC=C2)CO | C7H7N3O
reactant | Dibenzylamine | 0.342 mol, 67.5 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
solvent | EtOH | 800 mL | CCO | C2H6O
product | N-(Dibenzylaminomethyl)benzotriazole | 112 g | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)CN1N=NC2=C1C=CC=C2 | C21H20N4
